US08183380B2
[1-(2-Methylsulfanyl-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (0.35 g, 1.0 mmol) was dissolved in HCl/Methanol (2.5M, 4 mL) and stirred for 1.5 h at 40° C. After evaporation of the solvent and drying under high vacuum, 1-(2-methylsulfanyl-ethyl)-piperidin-4-ylamine dihydrochloride was obtained as an off-white solid (0.22 g, 100%); MS: m/e=175.5 (M+H+).

reactant | [1-(2-Methylsulfanyl-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 1.0 mmol, 0.35 g | C(C)(C)(C)OC(NC1CCN(CC1)CCSC)=O | C13H26N2O2S
reactant | HCl Methanol | 2.5M, 4 mL | Cl.CO
product | 1-(2-methylsulfanyl-ethyl)-piperidin-4-ylamine dihydrochloride | Cl.Cl.CSCCN1CCC(CC1)N | InChI=1S/C8H18N2S.2ClH/c1-11-7-6-10-4-2-8(9)3-5-10;;/h8H,2-7,9H2,1H3;2*1H
